US06350749B1
A mixture of 5-(2-fluorophenyl)-1,3-cyclohexanedione (2.0 g), 3-aminopropan-2-ol (0.95 g), molecular sieves 4A (12 g) and tetrahydrofuran (30 ml) was refluxed for 12 hours and cooled, and insoluble materials were filtered off. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in dimethylformamide (40 ml). To the solution were added 2-bromomesitylene (1.9 g), tetrakistriphenylphosphine palladium (0.28 g) and potassium carbonate (2.7 g), and the mixture was stirred at 150° C. for 5 hours and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, and the solution was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give 6-(2-fluorophenyl)-3-methyl-4,5,6,7-tetrahydroindol-4-one (0.96 g).

reactant | 5-(2-fluorophenyl)-1,3-cyclohexanedione | 2.0 g | FC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11FO2
reactant | 3-aminopropan-2-ol | 0.95 g | NCC(C)O | C3H9NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-(2-fluorophenyl)-3-methyl-4,5,6,7-tetrahydroindol-4-one | 0.96 g | FC1=C(C=CC=C1)C1CC(C=2C(=CNC2C1)C)=O | C15H14FNO
